US06639076B1
O-benzyl-D-serine methyl ester
To a solution of tert-butyloxycarbonyl-O-benzyl-D-serine methyl ester (BF8-EZ0-275) (5.0 g, 16 mmol) stirring in dichloromethane (40 mL) and anisole (1 mL) at 0° C. was added trifluoroacetic acid (10 mL). After 4 h at room temperature, a saturated aqueous solution of sodium bicarbonate was added and the resulting mixture extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over sodium sufate, and concentrated. The crude product was used in the next step without further purification.

reactant | tert-butyloxycarbonyl-O-benzyl-D-serine methyl ester | 16 mmol, 5.0 g | COC([C@H](NC(=O)OC(C)(C)C)COCC1=CC=CC=C1)=O | C16H23NO5
reactant | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | O-benzyl-D-serine methyl ester | COC([C@H](N)COCC1=CC=CC=C1)=O | C11H15NO3
